US06610688B2
To a mixture of 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (85 mg, 0.5 mmol) and 3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrole-2-carbaldehyde (125 mg, 0.5 mmol) in ethanol (4 mL) was added 0.1 to 0.2 mL of piperidine. The mixture was stirred at room temperature for 20 hours. The yellow precipitate was filtered after cooled with an ice bath, washed with cold ethanol, and dried to give 89 mg (45%) of 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one.

reactant | 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.5 mmol, 85 mg | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrole-2-carbaldehyde | 0.5 mmol, 125 mg | CC1=C(NC(=C1CCCN1CCOCC1)C)C=O | C14H22N2O2
reactant | piperidine | 0.1 to 0.2 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 89 mg, 45% | ClC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCCN2CCOCC2)C)=O | C20H24ClN5O2
